US06420383B1
Ethyl-2-[methyl(thienylmethyl)amino]-cyanoacetate
2-[Methyl(2-thienylmethyl)amino]ethanol (0.017 mol, 3 g) and cyanoacetic acid (0.017 mol, 1.5 g) were dissolved in 200 mL of THF and DCC (0.019 mol, 3.8 g) was added. After 3 h, the resulting solid was removed and the filtrate was concentrated. The residue was passed through a six-inch silica plug using ether as solvent to give 4.0 g of product. 1H NMR (300 MHz) CDCl3: 7.25 (d, 1H), 7.0-6.8 (m, 2H), 4.33 (t, 2H) 3.76 (s, 2H), 3.47 (s, 2H), 2.70 (t, 2H), 2.35 (s, 3H).

reactant | 2-[Methyl(2-thienylmethyl)amino]ethanol | 0.017 mol, 3 g | CN(CCO)CC=1SC=CC1 | C8H13NOS
reactant | cyanoacetic acid | 0.017 mol, 1.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | DCC | 0.019 mol, 3.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Ethyl-2-[methyl(thienylmethyl)amino]-cyanoacetate | 4.0 g | C(C)OC(C(N(CC=1SC=CC1)C)C#N)=O | C11H14N2O2S
